data/oMe_Silver.jsonl
{"reaction_id": "NR-218_1-c1ccccn1_2-c1c(F)c(F)c(F)c(F)c1F","level": "medium","name": "Petrenko-Kritschenko Piperidone Synthesis","reactants_smiles": ["O=C(OCC)C(c1ccccn1)C(=O)C(c1ccccn1)C(=O)OCC","O=CC(c1c(F)c(F)c(F)c(F)c1F)","N"],"products_smiles": ["C1(C(c1ccccn1)(C(NC(C(c1ccccn1)1C(OCC)=O)(Cc1c(F)c(F)c(F)c(F)c1F))(Cc1c(F)c(F)c(F)c(F)c1F))C(OCC)=O)=O"],"conditions": "acid","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O=C(OCC)C(c1ccccn1)(C(N)C(c1c(F)c(F)c(F)c(F)c1F))C(=O)C(c1ccccn1)C(=O)OCC","step_weight": 0,"rationale": "Ammonia attacks the aldehyde carbonyl due to its high electrophilicity, and acid catalysis enhances carbonyl polarization, facilitating imine precursor formation."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O=C(OCC)C(c1ccccn1)(C(N=C(Cc1c(F)c(F)c(F)c(F)c1F))C(c1c(F)c(F)c(F)c(F)c1F))C(=O)C(c1ccccn1)C(=O)OCC","step_weight": 0,"rationale": "The β-keto ester enolate, stabilized by resonance, attacks the iminium carbon, favored by strong electrophilicity and acid-promoted enolization."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(c1ccccn1)(C(NC(C(c1ccccn1)1C(OCC)=O)(Cc1c(F)c(F)c(F)c(F)c1F))(Cc1c(F)c(F)c(F)c(F)c1F))C(OCC)=O)=O","step_weight": 0,"rationale": "Intramolecular attack is entropically favored; iminium electrophilicity and β-keto ester nucleophilicity drive cyclization to the thermodynamically stable piperidone."}],"description": "Under acidic conditions, ammonia first condenses with the aldehyde to form an imine, which is electrophilic. The β-keto ester enolate then attacks this iminium ion in a Mannich-type step. A second imine formation and intramolecular Mannich cyclization yield the piperidone ring."}
{"reaction_id": "NR-326_1-c1ccc(Cl)cc1_2-C#N","level": "easy","name": "Wolff Rearrangement","reactants_smiles": ["C(c1ccc(Cl)cc1)(=O)C(=[N+]=[N-])C#N"],"products_smiles": ["O=C=C(C#N)c1ccc(Cl)cc1"],"conditions": "Heat, light, or metal catalyst (e.g., Ag2O)","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(Cl)cc1)(=O)[C]C#N","step_weight": 0,"rationale": "Heating or catalysis promotes N₂ loss from the diazo group, favored by the excellent leaving ability of nitrogen and stabilization of the adjacent carbene by the carbonyl through resonance."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=C=C(C#N)c1ccc(Cl)cc1","step_weight": 0,"rationale": "The electron-deficient carbene undergoes a 1,2-shift of c1ccc(Cl)cc1 to stabilize via ketene formation, driven by conjugation between C=C=O and relief of carbene instability."}],"description": "Under thermal, photochemical, or metal-catalyzed conditions, the α-diazoketone loses nitrogen gas to form a reactive carbene. This intermediate undergoes a 1,2-shift, driven by carbene instability and the formation of a conjugated ketene, yielding the rearranged product."}
